US05563162
A mixture of 8-[2,6-dichloro-3-(N-glycyl-N-methylamino)benzyloxy]-2-methylquinoline (100 mg), acetic anhydride (35 ml), pyridine (60 μl) and methylene chloride (2 ml) was stirred for 3 hours at ambient temperature. The reaction mixture was concentrated and the residue was purified by preparative thin-layer chromatography (ethyl acetate-methanol) to give 8-[3-[N-(acetylglycyl)-N-methylamino]-2,6-dichlorobenzyloxy]-2-methylquinoline (138 mg).

reactant | 8-[2,6-dichloro-3-(N-glycyl-N-methylamino)benzyloxy]-2-methylquinoline | 100 mg | ClC1=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC=C1N(C)C(CN)=O)Cl | C20H19Cl2N3O2
reactant | acetic anhydride | 35 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 60 μl | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | 8-[3-[N-(acetylglycyl)-N-methylamino]-2,6-dichlorobenzyloxy]-2-methylquinoline | 138 mg | C(C)(=O)NCC(=O)N(C)C=1C(=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC1)Cl)Cl | C22H21Cl2N3O3
